US04544670
The Preparation of 1,1-Dimethyl-3-(2,6-Dichlorophenylacetyl)Guanidine Hydrochloride
10.89 g of 1,1-dimethylguanidine sulfate, 6.4 g of a 50% sodium hydroxide solution and 30 ml tetrahydrofuran are stirred for 2 hrs at RT. 5 g of anhydrous sodium sulfate are added, followed by the dropwise addition of a solution of 2,6-dichlorodichorophenylacetyl chloride (8.94 g) in 16 ml of tetrahydrofuran. The resulting mixture is stirred overnight at RT. The reaction mixture is evaporated to dryness and the residue stirred with 50 ml H2O at RT for 1 hr. The mixture is filtered and the solid washed with H2O and dried in vacuo. The resulting solid is extracted with 50 ml of boiling acetonitrile, filtered while hot, and the filtrate evaporated in vacuo. The resulting white solid is extracted with hot chloroform, filtered and the filtrate evaporated to dryness. The residue is recrystallized from benzene/chloroform. The solvent is removed and the residue dried in vacuo. The resulting material is taken up in ca 100 ml of chloroform, washed with 100 ml H2O and the chloroform layer separated, dried with magnesium sulfate and evaporated to dryness to afford a yellow oil. The yellow oil is taken up in chloroform and the resulting solution brought to pH 2 with methanolic hydrochloric acid. The solution is evaporated to dryness and the residual yellow solid crystallized to afford 4.38 g of tan crystalline solid, M.P. 225.5°-227° C.

reactant | 1,1-dimethylguanidine sulfate | 10.89 g | S(=O)(=O)(O)O.CN(C(=N)N)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-dichlorodichorophenylacetyl chloride | 8.94 g | ClC1=C(C(=CC=C1)Cl)C(C(=O)Cl)(Cl)Cl | C8H3Cl5O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1,1-Dimethyl-3-(2,6-Dichlorophenylacetyl)Guanidine Hydrochloride | 4.38 g | Cl.CN(C(=N)NC(CC1=C(C=CC=C1Cl)Cl)=O)C | InChI=1S/C11H13Cl2N3O.ClH/c1-16(2)11(14)15-10(17)6-7-8(12)4-3-5-9(7)13;/h3-5H,6H2,1-2H3,(H2,14,15,17);1H
